US09169217B2
Preparation of benzyl 4-amino-3-chloro-6-(2,4-dichloro-3-methoxyphenyl)-picolinate (Compound 38)
Methyl 4-amino-3-chloro-6-(2,4-dichloro-3-methoxyphenyl)picolinate (Compound C, prepared by the methods described in U.S. Pat. No. 7,314,849 B2; 500 mg, 1.4 mmol) was dissolved in benzyl alcohol (10 mL), treated with titanium(IV) isopropoxide (ca 100 μL) and heated at 85-90° C. After 2 h, another portion of titanium(IV) isopropoxide (100 μL) was added and heating was continued for another 18 h. The volatiles were removed under high vacuum, and the residue was purified by silica gel chromatography (eluting with 5% Et2O-30% dichloromethane (CH2Cl2)-65% hexane). The material was further purified by reverse phase high performance liquid chromatography (RP-HPLC; eluting with 70% acetonitrile) to give the title compound (375 mg, 61%): mp 107-108° C.; 1H NMR (400 MHz, CDCl3) δ 7.50-7.26 (m, 8H), 6.97 (s, 1H), 5.42 (s, 2H), 4.85 (s, 2H), 3.91 (s, 3H); ESIMS m/z 437 ([M+H]+).

reactant | Methyl 4-amino-3-chloro-6-(2,4-dichloro-3-methoxyphenyl)picolinate | NC1=C(C(=NC(=C1)C1=C(C(=C(C=C1)Cl)OC)Cl)C(=O)OC)Cl | C14H11Cl3N2O3
solvent | benzyl alcohol | 10 mL | C(C1=CC=CC=C1)O | C7H8O
catalyst | titanium(IV) isopropoxide | ca 100 μL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
catalyst | titanium(IV) isopropoxide | 100 μL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | benzyl 4-amino-3-chloro-6-(2,4-dichloro-3-methoxyphenyl)-picolinate | 375 mg, 61% | NC1=C(C(=NC(=C1)C1=C(C(=C(C=C1)Cl)OC)Cl)C(=O)OCC1=CC=CC=C1)Cl | C20H15Cl3N2O3
